US07511041B2
To a suspension of N-(2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide (150 mg, 0.515 mmol) in tetrahydrofuran (4 ml) at 0° C. was added a 4N solution of hydrochloric acid in 1,4-dioxane (2 ml, 8 mmol). The mixture was stirred at room temperature for 1 h, and concentrated under reduced pressure. The resulting residue was triturated with diethyl ether. The resulting precipitate was collected by filtration, washed with ethyl ether, and dried under reduced pressure to give N-(2,3-dihydro-imidazo[1,2-c]quinazolin-5-yl)nicotinamide hydrochloride (192 mg, quantitative).

reactant | N-(2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide | 0.515 mmol, 150 mg | N=1CCN2C(=NC=3C=CC=CC3C21)NC(C2=CN=CC=C2)=O | C16H13N5O
reactant | hydrochloric acid | Cl | ClH
reactant | 1,4-dioxane | 8 mmol, 2 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | N-(2,3-dihydro-imidazo[1,2-c]quinazolin-5-yl)nicotinamide hydrochloride | 192 mg | Cl.N=1CCN2C(=NC=3C=CC=CC3C21)NC(C2=CN=CC=C2)=O | InChI=1S/C16H13N5O.ClH/c22-15(11-4-3-7-17-10-11)20-16-19-13-6-2-1-5-12(13)14-18-8-9-21(14)16;/h1-7,10H,8-9H2,(H,19,20,22);1H
